US05037824
A mixture of 4-(3-cyanophenyl)-2-methyl-6-phenyl-3-pyridinecarboxylic acid (3.7 g), diphenylphosphoryl azide (3.24 g), triethylamine (1.19 g) and t-butanol (35 ml) was refluxed for 5 hours. After the organic solvent was evaporated, chloroform (40 ml) and a saturated aqueous solution of sodium bicarbonate (40 ml) were added to the residue. The separated organic layer was washed with water and brine, dried and concentrated in vacuo. The residue containing 3-(t-butoxycarbonylamino)-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine was dissolved with ethanol (35 ml). After conc. hydrochloric acid (2 ml) was added to the solution at 0° C., the mixture was stirred at 0° C. for 1.5 hours and further at 80° C. for 7.5 hours. The mixture was concentrated, dissolved with chloroform (40 ml) and water (40 ml) and adjusted to pH 9 with 5N sodium hydroxide. The organic layer was separated, washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel (70 g) eluting with a mixture of chloroform and methanol (100:1 V/V). The fractions containing the desired compound were combined and concentrated in vacuo. The residue was triturated with diethyl ether to give 3-amino-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine (1.30 g).

reactant | 4-(3-cyanophenyl)-2-methyl-6-phenyl-3-pyridinecarboxylic acid | 3.7 g | C(#N)C=1C=C(C=CC1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)C(=O)O | C20H14N2O2
reactant | diphenylphosphoryl azide | 3.24 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.19 g | C(C)N(CC)CC | C6H15N
solvent | t-butanol | 35 ml | C(C)(C)(C)O | C4H10O
product | 3-amino-4-(3-cyanophenyl)-2-methyl-6-phenylpyridine | 1.30 g | NC=1C(=NC(=CC1C1=CC(=CC=C1)C#N)C1=CC=CC=C1)C | C19H15N3
